US08530460B2
5-Bromo-2-cyclobutoxy-pyrimidine
2.42 mL (31.0 mmol) cyclobutanol and 3.00 g (15.5 mmol) 5-bromo-2-chloropyrimidine are added to 40 mL 1,4-dioxane and cooled down to 0° C. Then the reaction mixture is charged with 1.86 g (46.5 mmol) NaH. After removing of the cooling bath the reaction mixture is stirred at r.t. for 1 h. The reaction is quenched by the addition of water and sat. aq. NaHCO3 solution. The 1,4-dioxane is removed in vacuo and the aq. residue is extracted with DCM. The org. phases are combined, washed with water and dried with MgSO4. The solvent is removed under reduced pressure. The crude product is used without further purification.

reactant | cyclobutanol | 31.0 mmol, 2.42 mL | C1(CCC1)O | C4H8O
reactant | 5-bromo-2-chloropyrimidine | 15.5 mmol, 3.00 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | NaH | 46.5 mmol, 1.86 g | [H-].[Na+]
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 5-Bromo-2-cyclobutoxy-pyrimidine | BrC=1C=NC(=NC1)OC1CCC1 | C8H9BrN2O
